US04302238
A stirred solution of 9.5 grams (0.12 mole) of pyridine in 170 ml of methylene chloride under an argon atmosphere was cooled to -10° C. and a solution of 11.1 grams (0.06 mole) of dimethylthiomalonyl chloride in 30 ml of methylene chloride was added slowly. The reaction mixture was cooled to -40° C. and 9.5 grams (0.06 mole) of N-(2-chlorophenylmethyl)hydroxylamine was added in one portion. The addition caused the reaction mixture temperature to quickly rise to -20° C. The reaction mixture was stirred at -20° C. for one hour, then was diluted with 150 ml of methylene chloride. The solution was washed with 100 ml of water, two portions of 75 ml each of aqueous 2 N hydrochloric acid, and finally, 50 ml of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was purified by column chromatography using 450 grams of silica gel. Elution was accomplished with chloroform. Early fractions from the chromatography yielded 5.3 grams of 2-[(2-chlorophenyl)methyl]-4,4-dimethylisoxazolidine-5-one-3-thione; mp 51°-53° C. Later fractions were combined to give 2.2 grams of 2-[(2-chlorophenyl)methyl]-4,4-dimethylisoxazolidine-3-one-5-thione as an oil. The nmr and the ir spectra were consistent with the proposed structure.

reactant | pyridine | 0.12 mole, 9.5 grams | N1=CC=CC=C1 | C5H5N
reactant | dimethylthiomalonyl chloride | 0.06 mole, 11.1 grams | CC(C(=S)Cl)(C(=O)Cl)C | C5H6Cl2OS
reactant | N-(2-chlorophenylmethyl)hydroxylamine | 0.06 mole, 9.5 grams | ClC1=C(C=CC=C1)CNO | C7H8ClNO
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-[(2-chlorophenyl)methyl]-4,4-dimethylisoxazolidine-5-one-3-thione | 5.3 grams | ClC1=C(C=CC=C1)CN1OC(C(C1=S)(C)C)=O | C12H12ClNO2S
